US05084549
4-(4-chlorobenzoyloxy)-benzoic acid-4-(4-chlorobenzoyloxy)-phenyl ester is prepared as in Example 5 from 4-hydroxyphenyl-4-hydroxybenzoate and p-chlorobenzoic acid chloride. Yield: 250 g (98% of the theoretical). A liquid crystalline phase is observed under a polarization microscope in the temperature range from 160° to 350° C.

reactant | 4-hydroxyphenyl-4-hydroxybenzoate | OC1=CC=C(C=C1)C1=C(C(=O)[O-])C=CC(=C1)O
reactant | p-chlorobenzoic acid chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | 4-(4-chlorobenzoyloxy)-benzoic acid-4-(4-chlorobenzoyloxy)-phenyl ester | ClC1=CC=C(C(=O)OC2=CC=C(C=C2)OC(C2=CC=C(C=C2)OC(C2=CC=C(C=C2)Cl)=O)=O)C=C1 | C27H16Cl2O6
